US06452014B1
To a solution of indole-5-carboxaldehyde (2.00 g, 13.8 mmol) in dimethylformamide (50 mL) were added sodium hydride (60% oil dispersion; 828 mg, 20.7 mmol) and p-toluenesulfonyl chloride (3.16 g, 16.6 mmol) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 13 h at room temperature. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (5:1 hexane/ethyl acetate) to afford 1-(4-methylphenyl)sulfonylindole-5-carboxaldehyde (2.86 g, 69%).

reactant | indole-5-carboxaldehyde | 13.8 mmol, 2.00 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | sodium hydride | 20.7 mmol, 828 mg | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 16.6 mmol, 3.16 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-(4-methylphenyl)sulfonylindole-5-carboxaldehyde | 2.86 g, 69% | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C=O | C16H13NO3S
